US09447030B2
To a stirred solution of azetidin-3-ylmethyl (2-nitro-5-(thiophen-2-yl)phenyl)carbamate (0.09 g, 0.26 mmol, 1.0 eq.) in CH3CN:CH2Cl2 was added aq. formaldehyde (0.77 mmol, 3.0 eq.). The reaction mixture was stirred at room temperature for 30 min then cooled to 0° C. Sodium cyanoborohydride (0.03 g, 0.46 mmol, 1.8 eq.) was added slowly. The reaction was quenched with an aqueous saturated solution of sodium bicarbonate. The product was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated under reduced pressure. The crude product was purified by column chromatography (silica gel, 5% MeOH/CH2Cl2) to obtain (1-methylazetidin-3-yl)methyl (2-nitro-5-(thiophen-2-yl)phenyl)carbamate (0.07 g, 75% yield).

reactant | azetidin-3-ylmethyl (2-nitro-5-(thiophen-2-yl)phenyl)carbamate | 0.26 mmol, 0.09 g, 1.0 eq. | [N+](=O)([O-])C1=C(C=C(C=C1)C=1SC=CC1)NC(OCC1CNC1)=O | C15H15N3O4S
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | formaldehyde | 0.77 mmol, 3.0 eq. | C=O | CH2O
reactant | Sodium cyanoborohydride | 0.46 mmol, 0.03 g, 1.8 eq. | C(#N)[BH3-].[Na+]
solvent | CH3CN | CC#N | C2H3N
product | (1-methylazetidin-3-yl)methyl (2-nitro-5-(thiophen-2-yl)phenyl)carbamate | 0.07 g, 75% yield | [N+](=O)([O-])C1=C(C=C(C=C1)C=1SC=CC1)NC(OCC1CN(C1)C)=O | C16H17N3O4S
